US03948912
3.36 g 3-(5-nitro-1-methyl-2-imidazolyl)-6-chloro-s-triazolo[ 4,3-b] pyridazine were dissolved in 30 ml. dimethyl sulfoxide and mixed at 70°C., while stirring, with 3.4 g guanidinium chloride. 5 ml. water were then added thereto, followed by the dropwise addition of 2.4 ml. 1ON aqueous sodium hydroxide solution, whereafter the reaction mixture was further stirred for an hour at 70°C. After cooling and diluting with water, the precipitated crystals were filtered off with suction, washed with water and dried in a vacuum. 2.5 g of crude product were thus obtained which, after recrystallization from 25 ml. dimethyl formamide, with the addition of active charcoal, gave 1.17 g 3-(5-nitro-1-methyl-2-imidazolyl)-6-(diaminomethylene-amino)-s-triazolo [4,3-b] pyridazine in the form of a yellow material which melted, with decomposition, at 278° - 280°C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-chloro-s-triazolo[ 4,3-b] pyridazine | 3.36 g | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)Cl | C9H6ClN7O2
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | guanidinium chloride | 3.4 g | [Cl-].NC(=[NH2+])N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(5-nitro-1-methyl-2-imidazolyl)-6-(diaminomethylene-amino)-s-triazolo [4,3-b] pyridazine | 1.17 g | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N=C(N)N | C10H10N10O2
